US06677349B1
A solution of 2-methyl-N1-(3-nitroquinolin-4-yl)propane-1,2-diamine (2.60 g, 10.0 mmol) in 50 mL of THF, under N2, was cooled to 0° C. and treated with 10 mL of 1N NaOH solution. Di-tert-butyl dicarbonate (2.18 g, 10.0 mmol) was then added to the rapidly stirred solution. The reaction mixture was then allowed to warm to ambient temperature and was stirred overnight. An additional 400 mg of di-tert-butyl dicarbonate was added and stirring was continued for 3 d. The reaction was then treated with ethyl acetate (200 mL) and washed with H2O (2×) and brine. The organic portion was dried over Na2SO4 and concentrated to give a yellow solid that was titurated with 10% EtOAc/hexanes. The solid was isolated by filtration and dried under vacuum overnight to give tert-butyl 1,1-dimethyl-2-[(3-nitroquinolin-4-yl)amino]ethylcarbamate (2.80 g) as a yellow powder.

reactant | 2-methyl-N1-(3-nitroquinolin-4-yl)propane-1,2-diamine | 10.0 mmol, 2.60 g | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)N | C13H16N4O2
reactant | NaOH | 1N, 10 mL | [OH-].[Na+]
reactant | Di-tert-butyl dicarbonate | 10.0 mmol, 2.18 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | di-tert-butyl dicarbonate | 400 mg | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | ethyl acetate | 200 mL | C(C)(=O)OCC | C4H8O2
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | tert-butyl 1,1-dimethyl-2-[(3-nitroquinolin-4-yl)amino]ethylcarbamate | 2.80 g | CC(CNC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-])(C)NC(OC(C)(C)C)=O | C18H24N4O4
